US05442063
85% Potassium hydroxide (0.40 g, 6.0 mmol) and toluene (5 ml) were added to 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminobenzyl cyanide (E/Z=15/85)(1.47 g, 5.0 mmol). The mixture was stirred at 95° C. for 2 hours. After completion of the reaction, water was added. The mixture was neutralized with conc. hydrochloric acid, extracted with toluene (100 ml), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to give 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-methoxyiminoacetamide (1.30 g, Yield: 83.2%, E/Z=15/85).

reactant | Potassium hydroxide | 6.0 mmol, 0.40 g | [OH-].[K+]
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminobenzyl cyanide | 5.0 mmol, 1.47 g | CC1=C(OCC2=C(C(=NOC)C#N)C=CC=C2)C=C(C=C1)C | C18H18N2O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-methoxyiminoacetamide | 1.30 g, Yield: 83.2% | CC1=C(OCC2=C(C=CC=C2)C(C(=O)N)=NOC)C=C(C=C1)C | C18H20N2O3
